US06995144B2
2-(4-Fluoro-3-thienyl)-1-(4-pyridyl)ethanone
After dissolving 19.6 g of [(phenylamino)-(4-pyridylmethyl)]phosphonic acid diphenyl ester [CAS No.3360-72-3] in 115 ml of tetrahydrofuran-2-propanol (4:1), 6.02 g of 4-fluorothiophene-3-carboxaldehyde and 19.61 g of anhydrous cesium carbonate were added and the mixture was stirred overnight at room temperature. Next, 90 ml of 5N hydrochloric acid was added to the reaction mixture and the mixture was stirred at room temperature for 6 hours. After adding a 5N sodium hydroxide solution to the reaction solution, extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate). The obtained solid was washed with n-hexane to obtain the title compound (3.66 g, 36% yield).

reactant | [(phenylamino)-(4-pyridylmethyl)]phosphonic acid diphenyl ester | 19.6 g | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(=O)C(C1=CC=NC=C1)NC1=CC=CC=C1 | C24H21N2O3P
reactant | 4-fluorothiophene-3-carboxaldehyde | 6.02 g | FC=1C(=CSC1)C=O | C5H3FOS
reactant | cesium carbonate | 19.61 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrochloric acid | 5N, 90 ml | Cl | ClH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | tetrahydrofuran-2-propanol | 115 ml | O1C(CCC1)CCCO | C7H14O2
product | 2-(4-Fluoro-3-thienyl)-1-(4-pyridyl)ethanone | 3.66 g, 36% yield | FC=1C(=CSC1)CC(=O)C1=CC=NC=C1 | C11H8FNOS
